US04683241
2,2',4,4'-tetrapivaloyloxybenzophenone
A solution of 2.4 g (0.01 mole) of 2,2',4,4'-tetrahydroxybenzophenone and 5 g (0.04 mole) of pivaloylchloride was warmed to 50° C. in 75 mls of dry pyridine for 2 hrs with a drying tube attached. The solvent was removed via rotary evaporator and the residue was partitioned between H2O and CH2Cl2 ; the organic layer was washed with dilute K2CO3 and dried over MgSO4. After removal of solvent via rotary evaporation, the title compound was crystallized from ethanol. 4 g. (69%) yield. M.P.~154°-156° C.

reactant | 2,2',4,4'-tetrahydroxybenzophenone | 0.01 mole, 2.4 g | OC1=C(C(=O)C2=C(C=C(C=C2)O)O)C=CC(=C1)O | C13H10O5
reactant | pivaloylchloride | 0.04 mole, 5 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 75 mls | N1=CC=CC=C1 | C5H5N
product | 2,2',4,4'-tetrapivaloyloxybenzophenone | C(C(C)(C)C)(=O)OC1=C(C(=O)C2=C(C=C(C=C2)OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)C=CC(=C1)OC(C(C)(C)C)=O | C33H42O9
